US06784172B2
To a suspension of benzodiazapine (92.0 g, 0.62 mole) and K2CO3 (90.2 g, 0.65 mole, −325 mesh) in CH3CN (1000 ml) was added acetic anhydride (63.4 g, 58.6 ml, 0.62 mole) in 0.5 h (reaction mixture was cooled in ice water to maintain the reaction mixture temperature between 15-22° C.). The suspension was stirred for 0.5 h at room temperature (check TLC after 30 min, eluent ethyl acetate:MeOH 9:1). The reaction mixture was evaporated and to the residue water (400 ml) was added. The suspension was cooled in ice, filtered, washed with cold water (50 ml×2). Dried under vacuum to give 109.7 g of 4-acetylbenzodiazepine as a white solid, yield 93%).

reactant | benzodiazapine | 0.62 mole, 92.0 g | N1N=CC=CC2=C1C=CC=C2 | C9H8N2
reactant | K2CO3 | 0.65 mole, 90.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetic anhydride | 0.62 mole, 58.6 ml, 63.4 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate MeOH | C(C)(=O)OCC.CO
solvent | CH3CN | 1000 ml | CC#N | C2H3N
product | 4-acetylbenzodiazepine | 109.7 g, yield 93% | C(C)(=O)C=1C=NNC2=C(C1)C=CC=C2 | C11H10N2O
